US07612114B2
Synthesized from (4-benzyloxybenzyl)[6-methoxy-2-(4-methoxyphenyl)indan-4-yl]methylamine according to an analogous synthetic method to Example 22, [6-methoxy-2-(4-methoxyphenyl)indan-4-yl]methylamine (553 mg) and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride (795 mg) were used according to an analogous synthetic method to Example 152 to provide [4-(2-azepan-1-ylethoxy)benzyl][6-methoxy-2-(4-methoxyphenyl)indan-4-yl]methyl amine (172 mg). This compound was used according to an analogous synthetic method to Example 111 to provide the title compound (64 mg).

reactant | (4-benzyloxybenzyl)[6-methoxy-2-(4-methoxyphenyl)indan-4-yl]methylamine | C(C1=CC=CC=C1)OC1=CC=C(CNCC2=C3CC(CC3=CC(=C2)OC)C2=CC=C(C=C2)OC)C=C1 | C32H33NO3
reactant | [6-methoxy-2-(4-methoxyphenyl)indan-4-yl]methylamine | 553 mg | COC1=CC(=C2CC(CC2=C1)C1=CC=C(C=C1)OC)CN | C18H21NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | 795 mg | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
product | [4-(2-azepan-1-ylethoxy)benzyl][6-methoxy-2-(4-methoxyphenyl)indan-4-yl]methyl amine | 172 mg | N1(CCCCCC1)CCOC1=CC=C(CNCC2=C3CC(CC3=CC(=C2)OC)C2=CC=C(C=C2)OC)C=C1 | C33H42N2O3
